* ============================================================================
* AutoHV_BiCMOS180 - device subcircuit library for Qucs-S (case-parameterized).
* Drop this file + autohv_bicmos180_case_models.inc + the autohv_bicmos180_case/
* symbol folder into a Qucs-S library directory (e.g. ~/.qucs/user_lib or
* <install>/share/qucs-s/library). All 38 .SUBCKT devices then appear in the
* left-side Library dock with their symbols, drag-and-drop ready.
* Corner: set the global 'case' param (0=TT 1=FF 2=SS 3=FS 4=SF); see the .inc.
* ============================================================================
.include "autohv_bicmos180_case_models.inc"

* ============================ DEVICE SUBCIRCUITS ============================
* Place these via the Qucs-S 'SPICE Library Device' (File Components group).
.subckt NMOS18 d g s b params: W=10u L=1u M=1
.param AUM2={(W/1u)*(L/1u)}
.param DVTH_MM={MM_ON*AGAUSS(0, 0.0105/sqrt(AUM2+1e-12), 3)}
.param DWREL_MM={MM_ON*AGAUSS(0, 0.0075/sqrt(AUM2+1e-12), 3)}
.param DLREL_MM={MM_ON*AGAUSS(0, 0.0045000000000000005/sqrt(AUM2+1e-12), 3)}
.param WEFF={W*(1+DWREL_MM)}
.param LEFF={L*(1+DLREL_MM)}
M0 d g s b NMOS18_INT W={WEFF} L={LEFF} M={M} delvto={DVTH_MM}
.ends NMOS18

.subckt PMOS18 d g s b params: W=10u L=1u M=1
.param AUM2={(W/1u)*(L/1u)}
.param DVTH_MM={MM_ON*AGAUSS(0, 0.0105/sqrt(AUM2+1e-12), 3)}
.param DWREL_MM={MM_ON*AGAUSS(0, 0.0075/sqrt(AUM2+1e-12), 3)}
.param DLREL_MM={MM_ON*AGAUSS(0, 0.0045000000000000005/sqrt(AUM2+1e-12), 3)}
.param WEFF={W*(1+DWREL_MM)}
.param LEFF={L*(1+DLREL_MM)}
M0 d g s b PMOS18_INT W={WEFF} L={LEFF} M={M} delvto={DVTH_MM}
.ends PMOS18

.subckt NMOS33 d g s b params: W=10u L=1u M=1
.param AUM2={(W/1u)*(L/1u)}
.param DVTH_MM={MM_ON*AGAUSS(0, 0.012/sqrt(AUM2+1e-12), 3)}
.param DWREL_MM={MM_ON*AGAUSS(0, 0.0075/sqrt(AUM2+1e-12), 3)}
.param DLREL_MM={MM_ON*AGAUSS(0, 0.0045000000000000005/sqrt(AUM2+1e-12), 3)}
.param WEFF={W*(1+DWREL_MM)}
.param LEFF={L*(1+DLREL_MM)}
M0 d g s b NMOS33_INT W={WEFF} L={LEFF} M={M} delvto={DVTH_MM}
.ends NMOS33

.subckt PMOS33 d g s b params: W=10u L=1u M=1
.param AUM2={(W/1u)*(L/1u)}
.param DVTH_MM={MM_ON*AGAUSS(0, 0.012/sqrt(AUM2+1e-12), 3)}
.param DWREL_MM={MM_ON*AGAUSS(0, 0.0075/sqrt(AUM2+1e-12), 3)}
.param DLREL_MM={MM_ON*AGAUSS(0, 0.0045000000000000005/sqrt(AUM2+1e-12), 3)}
.param WEFF={W*(1+DWREL_MM)}
.param LEFF={L*(1+DLREL_MM)}
M0 d g s b PMOS33_INT W={WEFF} L={LEFF} M={M} delvto={DVTH_MM}
.ends PMOS33

.subckt NMOS50 d g s b params: W=10u L=1u M=1
.param AUM2={(W/1u)*(L/1u)}
.param DVTH_MM={MM_ON*AGAUSS(0, 0.013499999999999998/sqrt(AUM2+1e-12), 3)}
.param DWREL_MM={MM_ON*AGAUSS(0, 0.0075/sqrt(AUM2+1e-12), 3)}
.param DLREL_MM={MM_ON*AGAUSS(0, 0.0045000000000000005/sqrt(AUM2+1e-12), 3)}
.param WEFF={W*(1+DWREL_MM)}
.param LEFF={L*(1+DLREL_MM)}
M0 d g s b NMOS50_INT W={WEFF} L={LEFF} M={M} delvto={DVTH_MM}
.ends NMOS50

.subckt PMOS50 d g s b params: W=10u L=1u M=1
.param AUM2={(W/1u)*(L/1u)}
.param DVTH_MM={MM_ON*AGAUSS(0, 0.013499999999999998/sqrt(AUM2+1e-12), 3)}
.param DWREL_MM={MM_ON*AGAUSS(0, 0.0075/sqrt(AUM2+1e-12), 3)}
.param DLREL_MM={MM_ON*AGAUSS(0, 0.0045000000000000005/sqrt(AUM2+1e-12), 3)}
.param WEFF={W*(1+DWREL_MM)}
.param LEFF={L*(1+DLREL_MM)}
M0 d g s b PMOS50_INT W={WEFF} L={LEFF} M={M} delvto={DVTH_MM}
.ends PMOS50

.subckt NMOS12 d g s b params: W=10u L=1u M=1
.param AUM2={(W/1u)*(L/1u)}
.param DVTH_MM={MM_ON*AGAUSS(0, 0.018000000000000002/sqrt(AUM2+1e-12), 3)}
.param DWREL_MM={MM_ON*AGAUSS(0, 0.0075/sqrt(AUM2+1e-12), 3)}
.param DLREL_MM={MM_ON*AGAUSS(0, 0.0045000000000000005/sqrt(AUM2+1e-12), 3)}
.param WEFF={W*(1+DWREL_MM)}
.param LEFF={L*(1+DLREL_MM)}
M0 d g s b NMOS12_INT W={WEFF} L={LEFF} M={M} delvto={DVTH_MM}
.ends NMOS12

.subckt PMOS12 d g s b params: W=10u L=1u M=1
.param AUM2={(W/1u)*(L/1u)}
.param DVTH_MM={MM_ON*AGAUSS(0, 0.018000000000000002/sqrt(AUM2+1e-12), 3)}
.param DWREL_MM={MM_ON*AGAUSS(0, 0.0075/sqrt(AUM2+1e-12), 3)}
.param DLREL_MM={MM_ON*AGAUSS(0, 0.0045000000000000005/sqrt(AUM2+1e-12), 3)}
.param WEFF={W*(1+DWREL_MM)}
.param LEFF={L*(1+DLREL_MM)}
M0 d g s b PMOS12_INT W={WEFF} L={LEFF} M={M} delvto={DVTH_MM}
.ends PMOS12

.subckt NDMOS20 d g s params: W=10u M=1
* HV DMOS: width W is the size knob (m=W/W_REF); channel/drift length fixed at process min
.param W_REF=10u
.param mtot={(W/W_REF)*M}
.param DVTH_MM={MM_ON*AGAUSS(0, 0.024, 3)/sqrt(max(mtot,1e-6))}
Vshift g g_int DC {-DVTH_MM}
M0 d g_int s NDMOS20_INT m={mtot}
.ends NDMOS20
.subckt PDMOS20 d g s params: W=10u M=1
* HV DMOS: width W is the size knob (m=W/W_REF); channel/drift length fixed at process min
.param W_REF=10u
.param mtot={(W/W_REF)*M}
.param DVTH_MM={MM_ON*AGAUSS(0, 0.024, 3)/sqrt(max(mtot,1e-6))}
Vshift g g_int DC {-DVTH_MM}
M0 d g_int s PDMOS20_INT m={mtot}
.ends PDMOS20
.subckt NDMOS60 d g s params: W=10u M=1
* HV DMOS: width W is the size knob (m=W/W_REF); channel/drift length fixed at process min
.param W_REF=10u
.param mtot={(W/W_REF)*M}
.param DVTH_MM={MM_ON*AGAUSS(0, 0.027, 3)/sqrt(max(mtot,1e-6))}
Vshift g g_int DC {-DVTH_MM}
M0 d g_int s NDMOS60_INT m={mtot}
.ends NDMOS60
.subckt PDMOS60 d g s params: W=10u M=1
* HV DMOS: width W is the size knob (m=W/W_REF); channel/drift length fixed at process min
.param W_REF=10u
.param mtot={(W/W_REF)*M}
.param DVTH_MM={MM_ON*AGAUSS(0, 0.027, 3)/sqrt(max(mtot,1e-6))}
Vshift g g_int DC {-DVTH_MM}
M0 d g_int s PDMOS60_INT m={mtot}
.ends PDMOS60
.subckt NDMOS120 d g s params: W=10u M=1
* HV DMOS: width W is the size knob (m=W/W_REF); channel/drift length fixed at process min
.param W_REF=10u
.param mtot={(W/W_REF)*M}
.param DVTH_MM={MM_ON*AGAUSS(0, 0.03, 3)/sqrt(max(mtot,1e-6))}
Vshift g g_int DC {-DVTH_MM}
M0 d g_int s NDMOS120_INT m={mtot}
.ends NDMOS120
.subckt PDMOS120 d g s params: W=10u M=1
* HV DMOS p-channel: width W is the size knob (m=W/W_REF); channel/drift length fixed at process min
.param W_REF=10u
.param mtot={(W/W_REF)*M}
.param DVTH_MM={MM_ON*AGAUSS(0, 0.03, 3)/sqrt(max(mtot,1e-6))}
Vshift g g_int DC {-DVTH_MM}
M0 d g_int s PDMOS120_INT m={mtot}
.ends PDMOS120
.subckt NDMOS40 d g s params: W=10u M=1
* HV DMOS: width W is the size knob (m=W/W_REF); channel/drift length fixed at process min
.param W_REF=10u
.param mtot={(W/W_REF)*M}
.param DVTH_MM={MM_ON*AGAUSS(0, 0.0085, 3)/sqrt(max(mtot,1e-6))}
Vshift g g_int DC {-DVTH_MM}
M0 d g_int s NDMOS40_INT m={mtot}
.ends NDMOS40
.subckt PDMOS40 d g s params: W=10u M=1
* HV DMOS: width W is the size knob (m=W/W_REF); channel/drift length fixed at process min
.param W_REF=10u
.param mtot={(W/W_REF)*M}
.param DVTH_MM={MM_ON*AGAUSS(0, 0.0085, 3)/sqrt(max(mtot,1e-6))}
Vshift g g_int DC {-DVTH_MM}
M0 d g_int s PDMOS40_INT m={mtot}
.ends PDMOS40
.subckt NDMOS80 d g s params: W=10u M=1
* HV DMOS: width W is the size knob (m=W/W_REF); channel/drift length fixed at process min
.param W_REF=10u
.param mtot={(W/W_REF)*M}
.param DVTH_MM={MM_ON*AGAUSS(0, 0.0095, 3)/sqrt(max(mtot,1e-6))}
Vshift g g_int DC {-DVTH_MM}
M0 d g_int s NDMOS80_INT m={mtot}
.ends NDMOS80
.subckt PDMOS80 d g s params: W=10u M=1
* HV DMOS: width W is the size knob (m=W/W_REF); channel/drift length fixed at process min
.param W_REF=10u
.param mtot={(W/W_REF)*M}
.param DVTH_MM={MM_ON*AGAUSS(0, 0.0095, 3)/sqrt(max(mtot,1e-6))}
Vshift g g_int DC {-DVTH_MM}
M0 d g_int s PDMOS80_INT m={mtot}
.ends PDMOS80
.subckt NDMOS200 d g s params: W=10u L=8u M=1
* 200V LDMOS: W free (m=W/W_REF); L = drift length. Recommended RESURF window ~5u..16u.
* L raises drift Rdson (~linear); breakdown is held at the model rating (see notes).
.param W_REF=10u
.param L_REF=8u
.param L_MIN=5u
.param Leff={max(L,L_MIN)}
.param mtot={(W/W_REF)*M}
.param DVTH_MM={MM_ON*AGAUSS(0, 0.011, 3)/sqrt(max(mtot,1e-6))}
.param RDRIFT={max(1.2*(Leff/L_REF-1)/mtot, 1e-6)}
Vshift g g_int DC {-DVTH_MM}
Rdrift d dd {RDRIFT}
M0 dd g_int s NDMOS200_INT m={mtot}
.ends NDMOS200
.subckt PDMOS200 d g s params: W=10u L=8u M=1
* 200V LDMOS p-channel: W free (m=W/W_REF); L = drift length. Recommended RESURF window ~5u..16u.
* L raises drift Rdson (~linear); breakdown is held at the model rating. RDRIFT scale factor
* is 3.0 (vs 1.2 on NDMOS200): PMOS drift in n-well has ~2.5x higher per-um R, so the per-um
* delta-R also scales by ~2.5x.
.param W_REF=10u
.param L_REF=8u
.param L_MIN=5u
.param Leff={max(L,L_MIN)}
.param mtot={(W/W_REF)*M}
.param DVTH_MM={MM_ON*AGAUSS(0, 0.011, 3)/sqrt(max(mtot,1e-6))}
.param RDRIFT={max(3.0*(Leff/L_REF-1)/mtot, 1e-6)}
Vshift g g_int DC {-DVTH_MM}
Rdrift d dd {RDRIFT}
M0 dd g_int s PDMOS200_INT m={mtot}
.ends PDMOS200
.subckt DNMOS20 d g s params: W=10u M=1
* HV DMOS: width W is the size knob (m=W/W_REF); channel/drift length fixed at process min
.param W_REF=10u
.param mtot={(W/W_REF)*M}
.param DVTH_MM={MM_ON*AGAUSS(0, 0.024, 3)/sqrt(max(mtot,1e-6))}
Vshift g g_int DC {-DVTH_MM}
M0 d g_int s DNMOS20_INT m={mtot}
.ends DNMOS20
.subckt NPN_LV c b e params: AREA=1
.param AREAEFF={AREA*(1+MM_ON*AGAUSS(0, 0.012/sqrt(AREA+1e-12), 3))}
.param BVCBO={((14*_isTT + 13.3*_isFF + 14.7*_isSS + 13.3*_isFS + 14.7*_isSF))*(1+P_DBV_NPN_LV)}
.param MAV_BJT=4
Vsen c ci DC 0
Q0 ci b e NPN_LV_INT area={AREAEFF}
Bavl ci b I={ abs(i(Vsen))*( 1/(1 - (min(max(V(ci,b)/BVCBO,0),0.997))**MAV_BJT) - 1 ) }
.ends NPN_LV

.subckt PNP_LAT c b e params: AREA=1
.param AREAEFF={AREA*(1+MM_ON*AGAUSS(0, 0.012/sqrt(AREA+1e-12), 3))}
.param BVCBO={((18*_isTT + 17.1*_isFF + 18.9*_isSS + 18.9*_isFS + 17.1*_isSF))*(1+P_DBV_PNP_LAT)}
.param MAV_BJT=4
Vsen c ci DC 0
Q0 ci b e PNP_LAT_INT area={AREAEFF}
Bavl ci b I={ abs(i(Vsen))*( 1/(1 - (min(max(V(ci,b)/BVCBO,0),0.997))**MAV_BJT) - 1 ) }
.ends PNP_LAT

.subckt NPN_HV c b e params: AREA=1
.param AREAEFF={AREA*(1+MM_ON*AGAUSS(0, 0.012/sqrt(AREA+1e-12), 3))}
.param BVCBO={((45*_isTT + 42.75*_isFF + 47.25*_isSS + 42.75*_isFS + 47.25*_isSF))*(1+P_DBV_NPN_HV)}
.param MAV_BJT=4
Vsen c ci DC 0
Q0 ci b e NPN_HV_INT area={AREAEFF}
Bavl ci b I={ abs(i(Vsen))*( 1/(1 - (min(max(V(ci,b)/BVCBO,0),0.997))**MAV_BJT) - 1 ) }
.ends NPN_HV

.subckt PNP_HV c b e params: AREA=1
.param AREAEFF={AREA*(1+MM_ON*AGAUSS(0, 0.012/sqrt(AREA+1e-12), 3))}
.param BVCBO={((32*_isTT + 30.4*_isFF + 33.6*_isSS + 33.6*_isFS + 30.4*_isSF))*(1+P_DBV_PNP_HV)}
.param MAV_BJT=4
Vsen c ci DC 0
Q0 ci b e PNP_HV_INT area={AREAEFF}
Bavl ci b I={ abs(i(Vsen))*( 1/(1 - (min(max(V(ci,b)/BVCBO,0),0.997))**MAV_BJT) - 1 ) }
.ends PNP_HV

.subckt DIO_PN a c params: AREA=1
.param AREAEFF={AREA*(1+MM_ON*AGAUSS(0, 0.012/sqrt(AREA+1e-12), 3))}
D0 a c DIO_PN_INT area={AREAEFF}
.ends DIO_PN

.subckt DIO_FAST a c params: AREA=1
.param AREAEFF={AREA*(1+MM_ON*AGAUSS(0, 0.012/sqrt(AREA+1e-12), 3))}
D0 a c DIO_FAST_INT area={AREAEFF}
.ends DIO_FAST

.subckt DIO_SCH a c params: AREA=1
.param AREAEFF={AREA*(1+MM_ON*AGAUSS(0, 0.012/sqrt(AREA+1e-12), 3))}
D0 a c DIO_SCH_INT area={AREAEFF}
.ends DIO_SCH

.subckt DZ_5V6 a c params: AREA=1
.param AREAEFF={AREA*(1+MM_ON*AGAUSS(0, 0.012/sqrt(AREA+1e-12), 3))}
D0 a c DZ_5V6_INT area={AREAEFF}
.ends DZ_5V6

.subckt DZ_12 a c params: AREA=1
.param AREAEFF={AREA*(1+MM_ON*AGAUSS(0, 0.012/sqrt(AREA+1e-12), 3))}
D0 a c DZ_12_INT area={AREAEFF}
.ends DZ_12

.subckt DZ_24 a c params: AREA=1
.param AREAEFF={AREA*(1+MM_ON*AGAUSS(0, 0.012/sqrt(AREA+1e-12), 3))}
D0 a c DZ_24_INT area={AREAEFF}
.ends DZ_24

.subckt RPOLY_HI p n params: L=100u W=10u
* High-sheet poly: matching coeff worse than low-sheet poly (US Pat 12,464,737:
* resistance and matching coeff are inversely related). VCR small (~200 ppm/V,
* Allen poly ~100 ppm/V; higher-sheet/lower-doping poly trends a bit higher).
.param AUM2={(L/1u)*(W/1u)}
.param RMM={1+MM_ON*AGAUSS(0, 0.0075/sqrt(AUM2+1e-12), 3)}
.param RSH0=1200
.param VCR1=200e-6
.param VCR2=10e-6
R0   p mid RPOLY_HI_INT L={L*RMM} W={W}
BVCR mid n V={ V(p,mid)*(VCR1*sqrt(V(p,n)*V(p,n)+1e-6) + VCR2*V(p,n)*V(p,n)) }
.ends RPOLY_HI

.subckt RPOLY_LO p n params: L=100u W=10u
* Low-sheet (heavily-doped) poly: best matching of the poly pair, very linear
* (VCR ~50 ppm/V), but high tc1 (heavily-doped poly trends metallic/positive).
.param AUM2={(L/1u)*(W/1u)}
.param RMM={1+MM_ON*AGAUSS(0, 0.003/sqrt(AUM2+1e-12), 3)}
.param RSH0=25
.param VCR1=50e-6
.param VCR2=2e-6
R0   p mid RPOLY_LO_INT L={L*RMM} W={W}
BVCR mid n V={ V(p,mid)*(VCR1*sqrt(V(p,n)*V(p,n)+1e-6) + VCR2*V(p,n)*V(p,n)) }
.ends RPOLY_LO

.subckt RNWELL p n params: L=100u W=10u
* N-well resistor: worst matching of the set and a LARGE voltage coefficient
* from junction-depletion modulation (~8000 ppm/V, Allen CMOS Analog Circuit
* Design). R rises with terminal-voltage magnitude. Avoid on signal nodes.
.param AUM2={(L/1u)*(W/1u)}
.param RMM={1+MM_ON*AGAUSS(0, 0.013/sqrt(AUM2+1e-12), 3)}
.param RSH0=1800
.param VCR1=8000e-6
.param VCR2=400e-6
R0   p mid RNWELL_INT L={L*RMM} W={W}
BVCR mid n V={ V(p,mid)*(VCR1*sqrt(V(p,n)*V(p,n)+1e-6) + VCR2*V(p,n)*V(p,n)) }
.ends RNWELL

.subckt RNPLUS p n params: L=100u W=10u
* N+ diffusion resistor: moderate matching, moderate VCR from junction
* depletion into the surrounding well/substrate (~1500 ppm/V).
.param AUM2={(L/1u)*(W/1u)}
.param RMM={1+MM_ON*AGAUSS(0, 0.005/sqrt(AUM2+1e-12), 3)}
.param RSH0=32
.param VCR1=1500e-6
.param VCR2=80e-6
R0   p mid RNPLUS_INT L={L*RMM} W={W}
BVCR mid n V={ V(p,mid)*(VCR1*sqrt(V(p,n)*V(p,n)+1e-6) + VCR2*V(p,n)*V(p,n)) }
.ends RNPLUS

.subckt RPPLUS p n params: L=100u W=10u
* P+ diffusion resistor: moderate matching, moderate VCR (~1800 ppm/V),
* slightly higher than N+ (opposite junction-side depletion behaviour).
.param AUM2={(L/1u)*(W/1u)}
.param RMM={1+MM_ON*AGAUSS(0, 0.0055/sqrt(AUM2+1e-12), 3)}
.param RSH0=58
.param VCR1=1800e-6
.param VCR2=90e-6
R0   p mid RPPLUS_INT L={L*RMM} W={W}
BVCR mid n V={ V(p,mid)*(VCR1*sqrt(V(p,n)*V(p,n)+1e-6) + VCR2*V(p,n)*V(p,n)) }
.ends RPPLUS

.subckt CMIM_STD p n params: L=100u W=100u
* Standard MIM: best matching of the four (MIM >> MOM matching; measured
* sigma ~0.1% vs ~0.65% for MOM, Subramanian et al.). Small VCC from the
* nitride-like dielectric (~30 ppm/V + quadratic term).
.param AUM2={(L/1u)*(W/1u)}
.param CMM={1+MM_ON*AGAUSS(0, 0.0015/sqrt(AUM2+1e-12), 3)}
.param LS={sqrt(CMM)}
.param CJ0=0.001
.param VCC1=30e-6
.param VCC2=20e-6
.param C0NOM={CJ0*(L*LS)*(W*LS)}
C0     p n CMIM_STD_INT L={L*LS} W={W*LS}
Cextra p n C={ C0NOM*(VCC1*sqrt(V(p,n)*V(p,n)+1e-6) + VCC2*V(p,n)*V(p,n)) }
.ends CMIM_STD

.subckt CMIM_HI p n params: L=100u W=100u
* High-density MIM: thinner dielectric -> slightly worse matching than STD and
* a higher voltage coefficient (~60 ppm/V; higher field accentuates dielectric
* nonlinearity). Still far better matched than the metal caps.
.param AUM2={(L/1u)*(W/1u)}
.param CMM={1+MM_ON*AGAUSS(0, 0.002/sqrt(AUM2+1e-12), 3)}
.param LS={sqrt(CMM)}
.param CJ0=0.002
.param VCC1=60e-6
.param VCC2=40e-6
.param C0NOM={CJ0*(L*LS)*(W*LS)}
C0     p n CMIM_HI_INT L={L*LS} W={W*LS}
Cextra p n C={ C0NOM*(VCC1*sqrt(V(p,n)*V(p,n)+1e-6) + VCC2*V(p,n)*V(p,n)) }
.ends CMIM_HI

.subckt CMOM p n params: L=100u W=100u
* Metal-oxide-metal: matches worse than MIM (~0.65% sigma class) but the SiO2
* dielectric is very linear, so VCC is tiny (~5 ppm/V).
.param AUM2={(L/1u)*(W/1u)}
.param CMM={1+MM_ON*AGAUSS(0, 0.006/sqrt(AUM2+1e-12), 3)}
.param LS={sqrt(CMM)}
.param CJ0=0.00035
.param VCC1=5e-6
.param VCC2=2e-6
.param C0NOM={CJ0*(L*LS)*(W*LS)}
C0     p n CMOM_INT L={L*LS} W={W*LS}
Cextra p n C={ C0NOM*(VCC1*sqrt(V(p,n)*V(p,n)+1e-6) + VCC2*V(p,n)*V(p,n)) }
.ends CMOM

.subckt CFRINGE p n params: L=100u W=100u
* Lateral fringe cap: lowest density and worst matching of the four, but the
* most linear (oxide dielectric, VCC ~3 ppm/V). C0NOM uses the area term only
* as a first-order scale for the (very small) VCC increment.
.param AUM2={(L/1u)*(W/1u)}
.param CMM={1+MM_ON*AGAUSS(0, 0.0075/sqrt(AUM2+1e-12), 3)}
.param LS={sqrt(CMM)}
.param CJ0=0.00018
.param VCC1=3e-6
.param VCC2=1e-6
.param C0NOM={CJ0*(L*LS)*(W*LS)}
C0     p n CFRINGE_INT L={L*LS} W={W*LS}
Cextra p n C={ C0NOM*(VCC1*sqrt(V(p,n)*V(p,n)+1e-6) + VCC2*V(p,n)*V(p,n)) }
.ends CFRINGE

